US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-Cyclopentylsulfanylmethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 80 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 69 mg of potassium carbonate, and 48 μL of cyclopentyl mercaptan reacted to give 7 mg of the title compound as a foam.

reactant | 4-Cyclopentylsulfanylmethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 80 mg | C1(CCCC1)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NOS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl mercaptan | 48 μL | C1(CCCC1)S | C5H10S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 7 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
